US07884207B2
A mixture of 1-aminocyclohexanecarbonitrile (48.5 g, 391 mmol) and platinum oxide (5.0 g) in 4.2 M HCl in ethanol (200 mL) and 2.7 M HCl in ethanol (300 mL) was hydrogenated at 50 psi (3.4×105 Pa) for 20 h on a Parr apparatus. The reaction mixture was filtered through CELITE filter agent and the filtrate was concentrated to yield a clear oil. The oil was triturated with isopropanol to yield a white solid that was isolated by filtration, washed with ether, and dried to provide 1-(aminomethyl)cyclohexanamine dihydrochloride (70.0 g, 89%).

reactant | 1-aminocyclohexanecarbonitrile | 391 mmol, 48.5 g | NC1(CCCCC1)C#N | C7H12N2
reactant | HCl | 4.2 M | Cl | ClH
reactant | HCl | 2.7 M | Cl | ClH
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 300 mL | C(C)O | C2H6O
catalyst | platinum oxide | 5.0 g | [Pt]=O
product | 1-(aminomethyl)cyclohexanamine dihydrochloride | 70.0 g, 89% | Cl.Cl.NCC1(CCCCC1)N | InChI=1S/C7H16N2.2ClH/c8-6-7(9)4-2-1-3-5-7;;/h1-6,8-9H2;2*1H
